US04455422
5.0 Grams of 6-(1-oxo-4-chlorobutyl)-3,4-dihydrocarbostyril and 3.5 g of sodium iodine were mixed in 100 ml of acetone and the mixture was stirred at 40°-50° C. for 5 hours. Then 80 ml of dimethylformamide was added to the mixture and acetone was removed from the mixture by distillation under reduced pressure. To this reaction mixture, 5.0 g of 4-phenylpiperazine and 5 g of triethylamine were added and stirred at 70°-80° C. for 6 hours. The reaction mixture was concentrated under a reduced pressure and 50 ml of 5%-sodium hydrogencarbonate solution was stirred to effect crystallization. Crude crystals thus formed were collected by filtration and washed with water and dried. Then the dried crude crystals were dispersed in 80 ml of chloroform and stirred at a room temperature for 1 hour. Insoluble matters in the chloroform solution were removed from the solution and chloroform was removed by distillation to obtain the residue. To the residue thus obtained was added 50 ml of methanol and 10 ml of concentrated hydrochloric acid and mixture was concentrated under a reduced pressure to dryness. To the residue thus obtained was added 50 ml of acetone and stirred to obtain crude crystals. The crude crystals were collected by filtration and washed with acetone and recrystallized from ethanol-water to obtain 5.7 g of 6-[1-oxo-4-(4-phenyl-1-piperazinyl)butyl]-3,4-dihydrocarbostyril monohydrochloride in yellowish powdery crystals.

reactant | 6-(1-oxo-4-chlorobutyl)-3,4-dihydrocarbostyril | O=C(CCCCl)C=1C=C2CCC(NC2=CC1)=O | C13H14ClNO2
reactant | sodium iodine | 3.5 g | [I].[Na]
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | methanol | 50 ml | CO | CH4O
product | 6-[1-oxo-4-(4-phenyl-1-piperazinyl)butyl]-3,4-dihydrocarbostyril monohydrochloride | 5.7 g | Cl.O=C(CCCN1CCN(CC1)C1=CC=CC=C1)C=1C=C2CCC(NC2=CC1)=O | InChI=1S/C23H27N3O2.ClH/c27-22(19-8-10-21-18(17-19)9-11-23(28)24-21)7-4-12-25-13-15-26(16-14-25)20-5-2-1-3-6-20;/h1-3,5-6,8,10,17H,4,7,9,11-16H2,(H,24,28);1H
